US08278441B2
N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide hydrochloride
A solution of 4M hydrogen chloride in dioxane (834.8 μL; 3.3 mmol) is added to tert-butyl 7a-(5-(5-fluoropicolinamido)-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-ylcarbamate (91 mg; 167.0 μmol) and stirred at ambient temperature. After 2 days, the reaction mixture is concentrated in vacuo. The residue is dissolved in minimal dichloromethane and methanol. Ether and hexane are added. The product is precipitated as the salt which is separated from the mother liquor by centrifugation and placed under vacuum to remove any solvent present to give the title compound (58 mg; 125 mmol). LC-ES/MS m/e 391 (M+1); TR=1.675.

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxane | 3.3 mmol, 834.8 μL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 7a-(5-(5-fluoropicolinamido)-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-ylcarbamate | 167.0 μmol, 91 mg | FC=1C=CC(=NC1)C(=O)NC=1C=CC(=C(C1)C12N=C(SCC1COC2)NC(OC(C)(C)C)=O)F | C23H24F2N4O4S
product | N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide hydrochloride | 125 mmol, 58 mg | Cl.NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=CC2F)NC(C2=NC=C(C=C2)F)=O | InChI=1S/C18H16F2N4O2S.ClH/c19-11-1-4-15(22-6-11)16(25)23-12-2-3-14(20)13(5-12)18-9-26-7-10(18)8-27-17(21)24-18;/h1-6,10H,7-9H2,(H2,21,24)(H,23,25);1H/t10-,18-;/m0./s1
